US04713474
A similar procedure to Example 1 is carried out by using 16.7 g of benzyl p-hydroxybenzoate and 16.7 g of sebacic acid dichloride to yield di(p-benzyloxycarbonylphenyl)sebacate, m.p. 62.5°-63° C., as white crystals.

reactant | benzyl p-hydroxybenzoate | 16.7 g | OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H12O3
reactant | sebacic acid dichloride | 16.7 g | C(CCCCCCCCC(=O)Cl)(=O)Cl | C10H16Cl2O2
product | di(p-benzyloxycarbonylphenyl)sebacate | C(C1=CC=CC=C1)OC(=O)C1=CC=C(C=C1)OC(CCCCCCCCC(=O)OC1=CC=C(C=C1)C(=O)OCC1=CC=CC=C1)=O | C38H38O8
